US08703759B2
A mixture of 90 mg 6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (0.30 mmol), 40 mg 5-(chloromethyl)-3-methyl-1,2,4-oxadiazole (0.30 mmol) and 23 mg potassium carbonate (0.17 mmol) in 2 mL DMA was heated at 110° C. for 2 h. The reaction mixture was then filtered and the filtrate concentrated. The residue was column purified on 12 g silica, eluting with 36 mL 5% ethyl acetate in hexanes, then 5-50% over 60 mL, and then 50% 120 mL. 2-((3-methyl-1,2,4-oxadiazol-5-yl)methyl)-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one was isolated as a yellow solid. m/z (ESI)=392.0 [M+H]+. 1H NMR (δ, d6-DMSO, 400 MHz) 7.95 (dd, 1H) 7.54 (d, 2H), 7.40 (dd, 1H), 7.32 (d, 2H), 7.20 (dd, 1H) 5.43 (s, 2H), 2.40 (s, 3H)

reactant | 6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.30 mmol, 90 mg | FC(OC1=CC=C(C=C1)C=1C=CC=2N(C1)C(NN2)=O)(F)F | C13H8F3N3O2
reactant | 5-(chloromethyl)-3-methyl-1,2,4-oxadiazole | 0.30 mmol, 40 mg | ClCC1=NC(=NO1)C | C4H5ClN2O
reactant | potassium carbonate | 0.17 mmol, 23 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 2-((3-methyl-1,2,4-oxadiazol-5-yl)methyl)-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | CC1=NOC(=N1)CN1N=C2N(C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)C1=O | C17H12F3N5O3
